US09120822B2
Bromo-acetic acid (1.23 g, 8.84 mmol, 2.0 eq) is added at room temperature to a stirred solution of 4-nitro-1H-pyrazole (500 mg, 4.42 mmol, 1.0 eq) in tetrahydrofuran (50 mL), followed by potassium carbonate (6.15 g, 44.2 mmol, 10.0 eq). The reaction mixture is heated under reflux for 2 hours, solvent is then evaporated, the residue is extracted with ethyl acetate (3×40 mL) and water (40 mL), and the pH is adjusted to 4 by the addition of a 0.1N hydrochloric acid aqueous solution. The combined organic layers are dried over sodium sulfate, filtered and concentrated to afford (4-nitro-pyrazol-1-yl)-acetic acid as a light yellow solid (589 mg, 78% yield).

reactant | Bromo-acetic acid | 8.84 mmol, 1.23 g, 2.0 eq | BrCC(=O)O | C2H3BrO2
reactant | 4-nitro-1H-pyrazole | 4.42 mmol, 500 mg, 1.0 eq | [N+](=O)([O-])C=1C=NNC1 | C3H3N3O2
reactant | potassium carbonate | 44.2 mmol, 6.15 g, 10.0 eq | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | (4-nitro-pyrazol-1-yl)-acetic acid | 589 mg, 78% yield | [N+](=O)([O-])C=1C=NN(C1)CC(=O)O | C5H5N3O4
